US06544990B2
Preparation 15 N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-6-(chloromethyl)-8-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide (3.95 g), N,N-diisopropylethylamine (1.79 mL), and morpholine (0.96 mL) in anhydrous DMF (149 mL) is heated at 65° C. for 1-2 h. The reaction is allowed to cool to room temperature, then poured into H20 (300 mL) to precipitate the product. The solid is filtered, adsorbed onto silica, and chromatographed (eluent 100% CH2Cl2 (0.5% CH2Cl2 (1L), 1% MeOH in CH2Cl2 (1L), 1.5% MeOH in CH2Cl2 (1 L), 2% MeOH in CH2Cl2 (1L), 2.5% MeOH in CH2Cl2 (2L)). Product-containing fractions are combined and condensed to afford 3.17 g (73%) of the desired product as a white solid.

reactant | N-(4-chlorobenzyl)-6-(chloromethyl)-8-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 3.95 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CCl)I)C)C=C1 | C19H15Cl2IN2O2
reactant | N,N-diisopropylethylamine | 1.79 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | morpholine | 0.96 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 149 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 3.17 g, 73% | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)I)C)C=C1 | C23H23ClIN3O3
